US04820443
3-[Trans-4'-(trans-4"-propylcyclohexylethyl)cyclohexyl]fluorobenzene (C-N point: 48.4° C., N-I point: 79.4° C.) (50 g) obtained from 3-fluorobromobenzene and 4-(trans-4'-propylcyclohexylethyl)cyclohexanone in the same manner as in Example 1, was dissolved in nitrobenzene (100 cc), followed by adding anhydrous aluminum chloride (50.5 g) to the solution, agitating it, dropwise adding acetyl chloride (29 g) to the mixture, heating the resulting mixture on a water bath at 40° C. for 2 hours after completion of heat generation to complete reaction, adding the reaction material to a mixture of ice (500 g) with conc. hydrochloric acid (100 cc), vigorously agitating the mixture to decompose the resulting aluminum chloride complex, extracting the freed oily substance with toluene (200 cc), washing the extract solution with water until the wash water became neutral, drying it over anhydrous sodium sulfate, filtering off the drying agent, distilling off toluene and nitrobenzene and recrystallizing a remaining oily substance from ethyl acetate to obtain 2-fluoro-4-[trans-4'-(trans-4"-propylcyclohexylethyl)cyclohexyl]acetophenone (20.2 g). This product exhibited a liquid crystal phase over 62.1° C. (C-N point) to 161.4° C. (N-I point).

reactant | 3-fluorobromobenzene | FC=1C=C(C=CC1)Br | C6H4BrF
reactant | 4-(trans-4'-propylcyclohexylethyl)cyclohexanone | C(CC)[C@@H]1CC[C@H](CC1)CCC1CCC(CC1)=O | C17H30O
product | 3-[Trans-4'-(trans-4"-propylcyclohexylethyl)cyclohexyl]fluorobenzene | 50 g | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C=1C=C(C=CC1)F | C23H35F
